US08008303B2
2′-Chloro-5′-(3-cyclohexyl-ureido)-biphenyl-4-carboxylic acid {4-[4-(propane-1-sulfonyl)-piperazin-1-ylmethyl]-phenyl}-amide
A mixture of 2′-Chloro-5′-(3-cyclohexyl-ureido)-biphenyl-4-carboxylic acid (150 mg), 4-(4-(propane-1-sulfonyl)-piperazin-1-ylmethyl)-phenylamine (236 mg) and HBTU (228 mg) in dry DMF (5 ml) containing N-methylmorpholine (0.13 ml) was stirred at room temp for 18 h. The mixture was then evaporated and the residue purified by chromatography. Gradient elution with 3%-20% 20DCM:8EtOH:1NH3 in DCM over 30 mins gave a white solid (38 mg)

reactant | 2′-Chloro-5′-(3-cyclohexyl-ureido)-biphenyl-4-carboxylic acid | 150 mg | ClC1=C(C=C(C=C1)NC(=O)NC1CCCCC1)C1=CC=C(C=C1)C(=O)O | C20H21ClN2O3
reactant | 4-(4-(propane-1-sulfonyl)-piperazin-1-ylmethyl)-phenylamine | 236 mg | C(CC)S(=O)(=O)N1CCN(CC1)CC1=CC=C(C=C1)N | C14H23N3O2S
reactant | HBTU | 228 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | 0.13 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2′-Chloro-5′-(3-cyclohexyl-ureido)-biphenyl-4-carboxylic acid {4-[4-(propane-1-sulfonyl)-piperazin-1-ylmethyl]-phenyl}-amide | 38 mg | C(CC)S(=O)(=O)N1CCN(CC1)CC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)NC(=O)NC1CCCCC1)Cl | C34H42ClN5O4S
